US07786129B2
5-Chloro-3-{4-[4-(2,4-dichlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 5-chloro-3-(4-chlorobutyl)-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one and 1-(2,4-dichlorophenyl)-piperazine.

reactant | 5-chloro-3-(4-chlorobutyl)-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=CC1F)=O)(CC)CCCCCl | C14H16Cl2FNO
reactant | 1-(2,4-dichlorophenyl)-piperazine | ClC1=C(C=CC(=C1)Cl)N1CCNCC1 | C10H12Cl2N2
product | 5-Chloro-3-{4-[4-(2,4-dichlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C2C(C(NC2=CC1F)=O)(CC)CCCCN1CCN(CC1)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C24H27Cl3FN3O.ClH/c1-2-24(17-14-18(26)20(28)15-21(17)29-23(24)32)7-3-4-8-30-9-11-31(12-10-30)22-6-5-16(25)13-19(22)27;/h5-6,13-15H,2-4,7-12H2,1H3,(H,29,32);1H
